US08293909B2
To a degassed solution containing 2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl trifluoromethanesulfonate (0.19 g, 0.44 mmol), 3-boronobenzoic acid (0.11 g, 0.67 mmol), cesium carbonate (0.22 g, 0.67 mmol), dioxane (3.7 mL) and water (0.74 mL) was added tetrakis(tiphenylphosphine)palladium(0) (0.0090 g, 0.010 mmol). The solution was maintained at 95° C. for 7 h. The solution was cooled to room temperature, concentrated and dissolved in a solution containing water and methanol (1.8/1, 14 mL). The solution was filtered to remove fine particulates and washed with dichloromethane (3×5 mL). The aqueous portion was concentrated to dryness to afford 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)benzoic acid as a pale grey solid which was used without further purification. LCMS: retention time: 1.830 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 u, C18, 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 10% CH3CN/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3CN/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 390 (MH+).

reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl trifluoromethanesulfonate | 0.44 mmol, 0.19 g | FC(S(=O)(=O)OC1=CC=2N(C=C1)N=C(C2C(NC)=O)C2=CC=C(C=C2)F)(F)F | C16H11F4N3O4S
reactant | 3-boronobenzoic acid | 0.67 mmol, 0.11 g | B(O)(O)C=1C=C(C(=O)O)C=CC1 | C7H7BO4
reactant | cesium carbonate | 0.67 mmol, 0.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 3.7 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.74 mL | O | H2O
product | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)benzoic acid | FC1=CC=C(C=C1)C1=NN2C(C=C(C=C2)C=2C=C(C(=O)O)C=CC2)=C1C(NC)=O | C22H16FN3O3
